US06531502B1
3-Cyclopentyl-4-methoxybenzaldehyde was condensed with 2-oxindole to give 0.25 g of 3-(3-Cyclopentyl-4-methoxybenzylidene)-1,3-dihydro-indol-2-one as a yellow-orange solid.

reactant | 3-Cyclopentyl-4-methoxybenzaldehyde | C1(CCCC1)C=1C=C(C=O)C=CC1OC | C13H16O2
reactant | 2-oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
product | 3-(3-Cyclopentyl-4-methoxybenzylidene)-1,3-dihydro-indol-2-one | 0.25 g | C1(CCCC1)C=1C=C(C=C2C(NC3=CC=CC=C23)=O)C=CC1OC | C21H21NO2
